US07875645B2
Butyl-[1-(3-chloro-2-ethyl-6-fluoro-phenyl)-meth-(E)-ylidene]-amine was prepared from butyl-[1-(2,3-dichloro-6-fluoro-phenyl)-meth-(E)-ylidene]-amine, ethylmagnesium bromide and manganese(II) chloride in analogy to Example 194a): yellow oil; 1H-NMR (CDCl3): 0.97 (3H, t, CH3), 1.15 (3H, t, CH3), 1.43 (2H, sextet, CH2), 1.70 (2H, quintet, CH2), 3.06 (2H, q, CH2), 3.66 (2H, t, CH2), 6.88 (1H, dd, ArH), 7.34 (1H, dd, ArH), 8.51 (1H, s, CH═N).

reactant | butyl-[1-(2,3-dichloro-6-fluoro-phenyl)-meth-(E)-ylidene]-amine | C(CCC)/N=C/C1=C(C(=CC=C1F)Cl)Cl | C11H12Cl2FN
reactant | ethylmagnesium bromide | C(C)[Mg]Br
catalyst | manganese(II) chloride | [Cl-].[Mn+2].[Cl-]
product | Butyl-[1-(3-chloro-2-ethyl-6-fluoro-phenyl)-meth-(E)-ylidene]-amine | C(CCC)/N=C/C1=C(C(=CC=C1F)Cl)CC | C13H17ClFN
